US08022218B2
(a). 1-Trifluoromethanesulfonyl-1H-pyrrole-2-carbaldehyde
At −78° C. and under a nitrogen atmosphere, trifluoromethanesulfonic anhydride (3.2 ml) was added dropwise to a solution of pyrrole-2-carboxyaldehyde (1 g) and DIPEA (3.67 ml) in dichloromethane (100 ml). After stirring for 5 min at −78° C., the reaction mixture was poured into sat. NaHCO3 (200 ml) and extracted with dichloromethane. The organic layer was separated, washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel in heptane/ethyl acetate=2/1 (v/v) as eluent. Yield: 675 mg.

reactant | trifluoromethanesulfonic anhydride | 3.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | DIPEA | 3.67 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Trifluoromethanesulfonyl-1H-pyrrole-2-carbaldehyde | FC(S(=O)(=O)N1C(=CC=C1)C=O)(F)F | C6H4F3NO3S
